US06472412B1
n-Butyl lithium (4.9 mL of a 2.5M solution in hexanes) is added dropwise to a stirred solution of diisopropylamine (1.7 mL) in dry tetrahydrofuran (20 mL) at −78° C. under a nitrogen atmosphere. After 30 minutes. a solution of 3,5-dichloro-4-methylpyridine (1.95 g) in dry tetrahydrofuran (10 mL) is added dropwise and the solution stirred at −78° C. for a further 30 minutes. A solution of methyl 5-cyclopentyloxy-6-methoxynicotinoate (1.5 g) in dry tetrahydrofuran (15 mL) is added and the red mixture stirred and allowed to warm to room temperature during 4 hours. After stirring overnight at room temperature the mixture is treated with saturated aqueous ammonium chloride. The tetrahydrofuran layer is separated and the aqueous phase is extracted with ethyl acetate. The combined organic layers are washed with saline and dried over anhydrous magnesium sulphate. Concentration gives a light brown oil which is triturated with a mixture of n-pentane and methyl t-butyl ether to give 1-(5-cyclopentyloxy-6-methoxypyridin-3-yl)-2-(3,5-dichloropyrid-4-yl)ethanone (1 g) in the form of a beige solid, m.p. 118-9° C. [Elemental analysis: C, 56.8; H, 4.82; Cl, 18.5; N, 7.40% calculated: C, 56.7; H, 4.76; Cl, 18.6; N, 7.35%.]

reactant | n-Butyl lithium | C(CCC)[Li]
reactant | diisopropylamine | 1.7 mL | C(C)(C)NC(C)C | C6H15N
reactant | 3,5-dichloro-4-methylpyridine | 1.95 g | ClC=1C=NC=C(C1C)Cl | C6H5Cl2N
reactant | methyl 5-cyclopentyloxy-6-methoxynicotinoate | 1.5 g | C1(CCCC1)OC=1C(=NC=C(C(=O)OC)C1)OC | C13H17NO4
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 1-(5-cyclopentyloxy-6-methoxypyridin-3-yl)-2-(3,5-dichloropyrid-4-yl)ethanone | 1 g | C1(CCCC1)OC=1C=C(C=NC1OC)C(CC1=C(C=NC=C1Cl)Cl)=O | C18H18Cl2N2O3
